### PR TITLE
[Merged by Bors] - chore(LinearAlgebra/ExteriorPower/Basis): avoid use of IsWellFounded.wellOrderExtension

### PR DESCRIPTION
**Pull request by vihdzp**
This file formerly used `IsWellFounded.wellOrderExtension` on an empty relation to create a linear order extending it, i.e. an arbitrary linear order. But we can accomplish this directly via the well-ordering principle.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/ExteriorPower/Basis.lean [hunk 1]
```diff
@@ -148,20 +147,21 @@ lemma basis_repr {I : Type*} [LinearOrder I] (b : Basis I R M) (s : powersetCard
 
 /-! ### Freeness and dimension of `⋀[R]^n M`. -/
 
+open Classical in
 /-- If `M` is a free module, then so is its `n`th exterior power. -/
 instance instFree [Module.Free R M] : Module.Free R (⋀[R]^n M) :=
   have ⟨I, b⟩ := Module.Free.exists_basis R M
-  letI : LinearOrder I := IsWellFounded.wellOrderExtension emptyWf.rel
+  letI : LinearOrder I := linearOrderOfSTO WellOrderingRel
   Module.Free.of_basis (b.exteriorPower n)
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorPower/Basis.lean]: Let's write this as follows instead:
```suggestion
/-- If `M` is a free module, then so is its `n`th exterior power. -/
instance instFree [Module.Free R M] : Module.Free R (⋀[R]^n M) := by
  classical
  have ⟨I, b⟩ := Module.Free.exists_basis R M
  let : LinearOrder I := linearOrderOfSTO WellOrderingRel
  exact Module.Free.of_basis (b.exteriorPower n)
```

File: Mathlib/LinearAlgebra/ExteriorPower/Basis.lean [hunk 2]
```diff
@@ -148,20 +147,21 @@ lemma basis_repr {I : Type*} [LinearOrder I] (b : Basis I R M) (s : powersetCard
...
 
 variable [Nontrivial R]
 
+open Classical in
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/ExteriorPower/Basis.lean]: As above, let's use the `classical` tactic within the proof rather than doing this:
```suggestion
```
